US05696299
To the distillation residue, i.e., a mixture of (R)-(-)-2-decanol stearic acid ester and unreacted isopropyl stearate, were added 90 g of stearyl alcohol and 3 g Lipase PL. After regulating the particle size of the enzyme by ultrasonication in the same manner as described above, interesterification was carried out at 85° C. for 48 hours. The reaction mixture was subjected to simple distillation at 90° C. and 3 mmHg to recover highly pure free (R)-(-)-2-decanol (yield: 72%; chemical purity: 99.6%; optical purity: 84% ee).

reactant | isopropyl stearate | C(CCCCCCCCCCCCCCCCC)(=O)OC(C)C | C21H42O2
reactant | stearyl alcohol | 90 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
product | (R)-(-)-2-decanol | yield: 72% | C[C@H](CCCCCCCC)O | C10H22O
